US07531532B2
4-(1-Methylazetidin-3-yl)piperazine-1-carboxylic acid {4-[4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}amide
To a solution of 4-(1-methylazetidin-3-yl)piperazine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide (130 mg) in ethanol (6.0 ml)-tetrahydrofuran (6.0 ml) was added (1S)-(+)-10-camphorsulfonic acid (150 mg), followed by stirring at room temperature for 15 min. A solution of 2-phenylacetyl isothiocyanate in toluene (0.25 M, 4.08 ml) was added to the reaction mixture, followed by stirring at room temperature for 2 hrs. Ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml) were added to the reaction mixture, and the organic layer was separated. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=20:1). Fractions containing the titled compound were concentrated to give a residue, to which diethyl ether (5 ml) and hexane (10 ml) were added to give a precipitate. The precipitate was suspended in the solvent. Then the precipitate was filtered off, washed with hexane, and dried under aeration to provide the titled compound (44.3 mg, 23.3%) as pale yellow powder.

reactant | 4-(1-methylazetidin-3-yl)piperazine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide | 130 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CN(C2)C)C=C1 | C20H26N6O2
reactant | (1S)-(+)-10-camphorsulfonic acid | 150 mg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | 2-phenylacetyl isothiocyanate | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
reactant | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | ethanol | 6.0 ml | C(C)O | C2H6O
solvent | toluene | 0.25 M, 4.08 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 10 ml | CCCCCC | C6H14
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 6.0 ml | O1CCCC1 | C4H8O
product | 4-(1-Methylazetidin-3-yl)piperazine-1-carboxylic acid {4-[4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}amide | 44.3 mg, 23.3% | C1(=CC=CC=C1)CC(=O)NC(NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CN(C2)C)C=C1)=S | C29H33N7O3S
